US05939422
77.70 g (500 mmoles) of isovanillin and 69.40 g (600 mmoles) of 97% potassium t-butoxide (t-BuOK) dissolved in 800 ml of 1-propanol, 69.0 ml 630 mmoles), and the solution refluxed. After 3 hours another 9.25 g (80 mmoles) of t-BuOK were added at 80° C. and the suspension refluxed for another 3 hours. The solid was filtered off and the filtrate evaporated in vacuo to dryness. The residue was dissolved in ether and extracted with IN NaOH. The ether phase was evaporated to dryness: 85.40 g (77.5%) of cyclopentyloxybenzaldehyde was isolated.

reactant | isovanillin | 500 mmoles, 77.70 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | potassium t-butoxide | 600 mmoles, 69.40 g | CC(C)([O-])C.[K+]
reactant | t-BuOK | 80 mmoles, 9.25 g | CC(C)(C)[O-].[K+]
reactant | 1-propanol | 800 ml | C(CC)O | C3H8O
product | cyclopentyloxybenzaldehyde | 85.40 g, 77.5% | C1(CCCC1)OC1=C(C=O)C=CC=C1 | C12H14O2
